US06960601B2
Preparation of ethyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate
To a solution of crude 2,4-dichloro-N-(4-chlorophenyl)benzenecarboximidamide (10.3 g, 34.6 mmol) in toluene (100 mL), ethyl bromopyruvate (4.3 mL, 34.6 mmol) and Na2CO3 (7.3 g, 41.6 mmol) were added. The resulting solution was heated at reflux for 3 h. The reaction mixture was cooled to rt. The solid was filtered off and the solvent was evaporated. The residue was purified by flash chromatography over silica gel (40% ethyl acetate in hexane) to give the product (7.5 g, 52% overall yield from 4-chroloaniline) as a light yellow solid: LC-MS m/z 395 (MH+), retention time 3.91 min (method 1); mp 143-144° C.; Rf=0.63 (50% EtOAc in hexane). 1H NMR (300 MHz, CDCl3) δ 1.39-1.43 (3H, t, J=7.2 Hz), 4.39-4.46 (2H, q, J=6.9 Hz), 7.04-7.08 (2H, m), 7.25-7.50 (5H, m), 7.89 (1H, s).

reactant | 2,4-dichloro-N-(4-chlorophenyl)benzenecarboximidamide | 34.6 mmol, 10.3 g | ClC1=C(C=CC(=C1)Cl)C(NC1=CC=C(C=C1)Cl)=N | C13H9Cl3N2
reactant | ethyl bromopyruvate | 34.6 mmol, 4.3 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | Na2CO3 | 41.6 mmol, 7.3 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | ethyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H13Cl3N2O2
